US07141561B2
1-(4-Cyclopentyloxyphenyl)-3-[4-(2-methylaminoethoxy)phenyl]-1,3-dihydroimidazol-2-one
1-[4-(2-Bromoethoxy)phenyl]-3-(4-cyclopentyloxyphenyl)-1,3-dihydroimidazol-2-one was reacted with methylamine as described in example 6. The product with the molecular weight of 393.49 (C23H27N3O3); MS (ESI): 394 ([M+H]+) was obtained in this way.

reactant | 1-[4-(2-Bromoethoxy)phenyl]-3-(4-cyclopentyloxyphenyl)-1,3-dihydroimidazol-2-one | BrCCOC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1CCCC1)=O | C22H23BrN2O3
reactant | methylamine | CN | CH5N
product | 1-(4-Cyclopentyloxyphenyl)-3-[4-(2-methylaminoethoxy)phenyl]-1,3-dihydroimidazol-2-one | C1(CCCC1)OC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OCCNC)=O | C23H27N3O3
